US07790715B2
6-(4-{4-[3-(2-Methoxybenzyloxy)propoxy]phenyl}piperidin-3-yloxymethyl)-4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]thiazine
Analogously to Method D, 0.570 g of tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate and 0.359 g of 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]thiazin-3-one are reacted. The title compound is obtained as a colourless oil. Rf=0.27 (1:1 EtOAc-heptane); Rt=6.14.

reactant | tert-butyl 3-hydroxy-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.570 g | OC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OC(C)(C)C | C27H37NO6
reactant | 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]thiazin-3-one | 0.359 g | ClCC=1C=CC2=C(N(C(CS2)=O)CCCOC)C1 | C13H16ClNO2S
product | 6-(4-{4-[3-(2-Methoxybenzyloxy)propoxy]phenyl}piperidin-3-yloxymethyl)-4-(3-methoxypropyl)-3,4-dihydro-2H-benzo[1,4]thiazine | COC1=C(COCCCOC2=CC=C(C=C2)C2C(CNCC2)OCC=2C=CC3=C(N(CCS3)CCCOC)C2)C=CC=C1 | C35H46N2O5S
